US04399134
2-Methyl-5-fluoro-4-morpholinoindole (138 g) was dissolved in 1.5 l of acetic acid. To this solution was added 200 g of metal tin and the mixture was under reflux of acetic acid. During reflux 1.5 l of concentrated hydrochloric acid was added dropwise in 1 hour. After completion of addition, the mixture was allowed to react for 2 hours at the same temperature as above. After completion of reaction, the solvent was distilled off under reduced pressure. To the residue was added 1 l of water and the solution was adjusted to pH 13 with a 20% aqueous sodium hydroxide solution followed by adding 1 l of ether. After stirring insoluble substances were removed by filtration. An ether layer was separated from the filtrate and dried over anhydrous potassium carbonate. Removal of ether by distillation gave 75 g of 2-methyl-4-morpholino-5-fluoroindoline.

reactant | 2-Methyl-5-fluoro-4-morpholinoindole | 138 g | CC=1NC2=CC=C(C(=C2C1)N1CCOCC1)F | C13H15FN2O
reactant | tin | [Sn] | Sn
reactant | hydrochloric acid | 1.5 l | Cl | ClH
solvent | acetic acid | 1.5 l | C(C)(=O)O | C2H4O2
product | 2-methyl-4-morpholino-5-fluoroindoline | 75 g | CC1NC2=CC=C(C(=C2C1)N1CCOCC1)F | C13H17FN2O
